US09278950B2
Step 2. 3-Amino-N-{4-[(3S,5R)-3-amino-5-(trifluoromethyl)piperidin-1-yl]pyridin-3-yl}-7-(1-methylpiperidin-4-yl)quinoline-2-carboxamide
To the tert-butyl [(3S,5R)-1-[3-({[3-amino-7-(1-methylpiperidin-4-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-(trifluoromethyl)piperidin-3-yl]carbamate, 1 mL of 4 M HCl in dioxane and 1 mL of MeOH were added. The mixture was stirred at room temperature for 1 h, then evaporated under vacuum. The resulting residue was dissolved in 4.5 mL of MeOH and treated with 0.3 mL of NH4OH solution. The mixture was filtered and the filtrate was purified by preparative HPLC (XBridge™ C18 column, eluting with a gradient of MeCN/water containing 0.1% NH4OH, at a flow rate of 30 mL/min.) to afford the title compound. LCMS calc. for C27H33F3N7O [M+H]+: m/z=528.3. found: 528.3.

reactant | tert-butyl [(3S,5R)-1-[3-({[3-amino-7-(1-methylpiperidin-4-yl)quinolin-2-yl]carbonyl}amino)pyridin-4-yl]-5-(trifluoromethyl)piperidin-3-yl]carbamate | NC=1C(=NC2=CC(=CC=C2C1)C1CCN(CC1)C)C(=O)NC=1C=NC=CC1N1C[C@H](C[C@H](C1)C(F)(F)F)NC(OC(C)(C)C)=O | C32H40F3N7O3
reactant | HCl | 4 M, 1 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | MeOH | 1 mL | CO | CH4O
product | 3-Amino-N-{4-[(3S,5R)-3-amino-5-(trifluoromethyl)piperidin-1-yl]pyridin-3-yl}-7-(1-methylpiperidin-4-yl)quinoline-2-carboxamide | NC=1C(=NC2=CC(=CC=C2C1)C1CCN(CC1)C)C(=O)NC=1C=NC=CC1N1C[C@H](C[C@H](C1)C(F)(F)F)N | C27H32F3N7O
